US04908384
a. 2-(4-pentoxyphenoxymethyl)oxirane
A mixture of 24.41 g of 4-pentoxyphenol, 56 g of K2CO3, 34.7 ml of epicholorohydrin and 500 ml of methyl ethyl ketone was refluxed overnight. Solvent and solid were removed to yield a residue which was distilled by a Kugelrohr adaptor to give the title compound, bp 175°/0.01 mmHg.

reactant | 4-pentoxyphenol | 24.41 g | C(CCCC)OC1=CC=C(C=C1)O | C11H16O2
reactant | K2CO3 | 56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl ethyl ketone | 500 ml | C(C)C(=O)C | C4H8O
product | 2-(4-pentoxyphenoxymethyl)oxirane | C(CCCC)OC1=CC=C(OCC2OC2)C=C1 | C14H20O3
